US09328219B2
15.1 trans-1-(4-aminocyclohexyl)-3-cyclohexylurea
A solution of trans-1,4-diaminocyclohexane (6.15 g, 0.054 mol) in dry THF (500 mL) was cooled to −40° C. in a cooling bath (isopropyl alcohol/dry ice) under inert atmosphere. Isocyanatocyclohexane (6.75 g, 0.054 mol) in dry THF (100 mL) was added slowly under heavy stirring. The resulting mixture was stirred for another 24 h at room temperature. The precipitating white solid was filtrated, suspended in water and acidified to pH 2 (HCl). The emerging clear solution was again filtrated and the filtrate was brought to pH 8 (NaOH) whereupon trans-1-(4-aminocyclohexyl)-3-cyclohexylurea precipitated as a white solid.

reactant | trans-1,4-diaminocyclohexane | 0.054 mol, 6.15 g | N[C@@H]1CC[C@H](CC1)N | C6H14N2
reactant | isopropyl alcohol dry ice | C(C)(C)O.C(=O)=O
reactant | Isocyanatocyclohexane | 0.054 mol, 6.75 g | N(=C=O)C1CCCCC1 | C7H11NO
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | trans-1-(4-aminocyclohexyl)-3-cyclohexylurea | N[C@@H]1CC[C@H](CC1)NC(=O)NC1CCCCC1 | C13H25N3O
